US07262198B2
A solution of 4-bromo-1-indan-5-yloxybutane (934 mg, 3.46 mmol, crude) in EtOH (10 mL) was treated with (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-piperazinylpropan-2-ol as prepared in Example 3A (250 mg, 0.81 mmol) and DIEA (0.57 mL, 3.3 mmol) and refluxed for 14 hours. Upon cooling to RT, the solution was then concentrated under reduced pressure and purified via an Isco™ (100% EtOAc 4 min, 10 min gradient to 25% MeOH/EtOAc, hold 6 min.) to afford (2R)-3-[4-(4-indan-5-yloxybutyl)piperazinyl]-1-(2-methylbenzothiazol-5-yloxy)propan-2-ol.

reactant | 4-bromo-1-indan-5-yloxybutane | 3.46 mmol, 934 mg | BrCCCCOC=1C=C2CCCC2=CC1 | C13H17BrO
reactant | (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-piperazinylpropan-2-ol | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCNCC2)O | C15H21N3O2S
reactant | DIEA | 3.3 mmol, 0.57 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 10 mL | CCO | C2H6O
product | (2R)-3-[4-(4-indan-5-yloxybutyl)piperazinyl]-1-(2-methylbenzothiazol-5-yloxy)propan-2-ol | C1CCC2=CC(=CC=C12)OCCCCN1CCN(CC1)C[C@H](COC=1C=CC2=C(N=C(S2)C)C1)O | C28H37N3O3S
